US04587236
Analogously to Example 1, 1.0 g of 11β,21-dihydroxy-6α-methyl-17-propionyloxy-1,4-pregnadiene-3,20-dione in 10 ml of pyridine is treated with 5 ml of propionic anhydride and worked up. The crude product is purified on 100 g of silica gel with a methylene chloride-acetone gradient (0-12% acetone),thus isolating 760 mg of 11β-hydroxy-6α-methyl-17,21-dipropionyloxy-1,4-pregnadiene-3,20-dione, mp 126° C.

reactant | 11β,21-dihydroxy-6α-methyl-17-propionyloxy-1,4-pregnadiene-3,20-dione | 1.0 g | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)OC(CC)=O)C)=O)C | C25H34O6
reactant | propionic anhydride | 5 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 11β-hydroxy-6α-methyl-17,21-dipropionyloxy-1,4-pregnadiene-3,20-dione | 760 mg | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(COC(CC)=O)=O)([C@]2(C1)C)OC(CC)=O)C)=O)C | C28H38O7
